US04640915
A mixture of 4-nitrobenzyl 2-diazo-4-[(2R, 3S)-3-(1-methoxy-1-methylethyl)-4-oxo-azetidin-2-yl]-3-oxobutanoate (56.5 mg) and a catalytic amount of rhodium (II) acetate (ca. 1 mg) in dry benzene (5.6 ml) was refluxed for 30 minutes. After cooling to ambient temperature, the mixture was filtered and evaporated in vacuo to give 4-nitrobenzyl (2R, 5R, 6S)-3,7-dioxo-6-(1-methoxy-1-methylethyl)-1-azabicyclo[3.2.0]-heptane-2-carboxylate (50.0 mg) as an amorphous solid.

reactant | 4-nitrobenzyl 2-diazo-4-[(2R, 3S)-3-(1-methoxy-1-methylethyl)-4-oxo-azetidin-2-yl]-3-oxobutanoate | 56.5 mg | [N+](=[N-])=C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(C[C@H]1NC([C@@H]1C(C)(C)OC)=O)=O | C18H20N4O7
solvent | benzene | 5.6 ml | C1=CC=CC=C1 | C6H6
catalyst | rhodium (II) acetate | ca. 1 mg | C(C)(=O)[O-].[Rh+2].C(C)(=O)[O-]
product | 4-nitrobenzyl (2R, 5R, 6S)-3,7-dioxo-6-(1-methoxy-1-methylethyl)-1-azabicyclo[3.2.0]-heptane-2-carboxylate | 50.0 mg | O=C1[C@@H](N2C([C@@H]([C@H]2C1)C(C)(C)OC)=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C18H20N2O7
